US05866589
1-Benzyl-4-[N-ethyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]piperidine
Following the general procedure of EXAMPLE 115 and making non-critical variations but substituting 1-benzyl-4-[N-ethyl-N-(3-amino-2-pyridinyl)amino]piperidine (PREPARATION 4) for 1-benzyl-4-[N-propyl-N-(3-amino-2-pyridinyl)amino]piperidine and acetone for acetaldehyde, the title compound is obtained, NMR (CDCl3) 7.71, 7.30, 7.25, 6.80, 4.72, 3.55, 3.50, 3.11, 3.00, 2.88, 2.00, 1.74, 1.66, 1.20 and 0.86δ.

reactant | 1-benzyl-4-[N-propyl-N-(3-amino-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1N)CCC | C20H28N4
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | acetone | CC(=O)C | C3H6O
product | 1-Benzyl-4-[N-ethyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1NC(C)C)CC | C22H32N4
